US07470680B2
N-(2-aminophenethyl)-1-benzylpiperidin-4-amine.
N-(2-Nitrophenethyl)-1-benzylpiperidin-4-amine (1.98 g, 5.83 mmol) was dissolved in methanol (60 mL). Platinum(IV) oxide (55 mg, 0.242 mmol) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 50 psi of hydrogen gas. Reaction shook at room temperature for 75 minutes. Mixture was removed from the apparatus and then filtered over celite. Filtrate was concentrated to dryness. Title compound was obtained as brown oil in quantitative yield. MS (M+H)+=310.4.

reactant | N-(2-Nitrophenethyl)-1-benzylpiperidin-4-amine | 5.83 mmol, 1.98 g | [N+](=O)([O-])C1=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C20H25N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 mL | CO | CH4O
catalyst | Platinum(IV) oxide | 0.242 mmol, 55 mg | [Pt](=O)=O
product | N-(2-aminophenethyl)-1-benzylpiperidin-4-amine | quantitative yield | NC1=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C20H27N3
